US07919504B2
tert-Butyl 5-(3-fluoroisoquinolin-6-yl)-1,3,4-thiadiazol-2-ylcarbamate.
A mixture of 5-(3-fluoroisoquinolin-6-yl)-1,3,4-thiadiazol-2-amine (0.87 g, 3.53 mmol), di-tert-butyl dicarbonate (0.810 g, 3.71 mmol) and 4-dimethylaminopyridine (0.00432 g, 0.0353 mmol) in THF (15 mL) was stirred at 70° C. for 4 hours. Additional di-tert-butyl dicarbonate (0.40 g, 1.83 mmol) was added, and the mixture was stirred at 70° C. 16 hours. The solvent was evaporated. The residue was taken up in ACN (20 mL) and lithium bromide (1.18 g, 13.6 mmol) was added. The mixture was stirred at room temperature for 4 hours and at 70° C. for 2 hours. The solvent was evaporated. The residue was stirred with saturated NaHCO3 and water for 5 minutes. The precipitate was recovered by filtration and washed with water. The precipitate was triturated with ether by sonication and the solid was recovered by filtration, washing with ether to provide the product as an off-white solid (1.22 g, 78%). LCMS (API-ES) m/z: 347 (M+H+).

reactant | 5-(3-fluoroisoquinolin-6-yl)-1,3,4-thiadiazol-2-amine | 3.53 mmol, 0.87 g | FC=1N=CC2=CC=C(C=C2C1)C1=NN=C(S1)N | C11H7FN4S
reactant | di-tert-butyl dicarbonate | 3.71 mmol, 0.810 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tert-butyl dicarbonate | 1.83 mmol, 0.40 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | lithium bromide | 13.6 mmol, 1.18 g | [Br-].[Li+]
catalyst | 4-dimethylaminopyridine | 0.0353 mmol, 0.00432 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | tert-Butyl 5-(3-fluoroisoquinolin-6-yl)-1,3,4-thiadiazol-2-ylcarbamate | 1.22 g, 78% | FC=1N=CC2=CC=C(C=C2C1)C1=NN=C(S1)NC(OC(C)(C)C)=O | C16H15FN4O2S
